US04613596
N-[2-[[5-[(dimethylamino)methyl]furfuryl]thio]ethyl]-N'-(cyclohexyl)-2-nitro-1,1-ethenediamine (AU/009)
24.54 grams of 2-[[5-[(dimethylamino)methyl]furfuryl]thio]ethylmethylsulphide are reacted with 37 grams of 2-nitro-N-cyclohexyl-1,1-ethenediamine at 80° C. for 3 hours. Th mixture is cooled and the procedure described in Example 1 is followed. The product melts at 97°-99° C. Spectrophotometric analyses confirm its structure.

reactant | 2-[[5-[(dimethylamino)methyl]furfuryl]thio]ethylmethylsulphide | 24.54 grams | CN(C)CC1=CC=C(CSCCSC)O1 | C11H19NOS2
reactant | 2-nitro-N-cyclohexyl-1,1-ethenediamine | 37 grams | [N+](=O)([O-])C=C(NC1CCCCC1)N | C8H15N3O2
product | N-[2-[[5-[(dimethylamino)methyl]furfuryl]thio]ethyl]-N'-(cyclohexyl)-2-nitro-1,1-ethenediamine | CN(C)CC1=CC=C(CSCCNC(=C[N+](=O)[O-])NC2CCCCC2)O1 | C18H30N4O3S
